US09169203B2
Step 3: Synthesis of N-decyl-2-hydroxy-4-(methylsulfinyl)butanamide.
To a solution of 1-(decylamino)-4-(methylsulfinyl)-1-oxobutan-2-yl acetate (22.4 g, 63.4 mmol) in methanol (300 mL) was added 2.5 N NaOH (39 mL, 97.5 mmol) and the resulting solution was stirred at room temperature for 5 hrs. The reaction was quenched with concentrated HCl (12.5 mL) and then evaporated to a small volume. The resulting mixture was treated with EtOAc (200 mL) and then washed with 1N HCl (150 mL), saturated sodium bicarbonate (50 mL), dried over magnesium sulfate, filtered and evaporated to give a solid. The solid was dissolved in dichloromethane and purified by silica gel chromatography with 0-10% methanol/dichloromethane. The desired fractions were collected and evaporated to give a white solid (13.6 g, 70%). 1H NMR (500 MHz, DMSO-d6) δ ppm 0.85 (t, J=6.83 Hz, 3 H) 1.15-1.32 (m, 14 H) 1.32-1.46 (m, 2 H) 1.75-1.87 (m, 1 H) 1.94-2.06 (m, 1 H) 2.51 (d, J=1.27 Hz, 3 H) 2.58-2.88 (m, 2 H) 3.00-3.12 (m, 2 H) 3.89-4.02 (m, 1 H) 5.69 (d, J=5.40 Hz, 1 H) 7.76 (t, J=5.56 Hz, 1 H). m/z 306 (MH+).

reactant | 1-(decylamino)-4-(methylsulfinyl)-1-oxobutan-2-yl acetate | 63.4 mmol, 22.4 g | C(C)(=O)OC(C(=O)NCCCCCCCCCC)CCS(=O)C | C17H33NO4S
reactant | NaOH | 97.5 mmol, 2.5 N, 39 mL | [OH-].[Na+]
solvent | methanol | 300 mL | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-decyl-2-hydroxy-4-(methylsulfinyl)butanamide | 13.6 g, 70% | C(CCCCCCCCC)NC(C(CCS(=O)C)O)=O | C15H31NO3S
